.title Wurlitzer 200A Preamp - LDR Sweep (Gain vs Rldr)
* Sweeps the LDR path resistance to measure tremolo gain modulation
* R-10 feeds back from output to TR-1 emitter via Ce1 (4.7uF coupling cap)

.MODEL Q2N5089 NPN(
+  IS=3.03E-14 BF=1434 NF=1.005 VAF=98.5 IKF=0.01358
+  ISE=2.88E-15 NE=1.262 BR=4.62 NR=1 VAR=22 IKR=0.1
+  ISC=1.065E-11 NC=1.41 RB=57 RE=0.518 RC=2.58
+  CJE=3.22E-12 VJE=0.65 MJE=0.33 TF=5.4E-10
+  CJC=1.35E-12 VJC=0.4 MJC=0.33 XCJC=0.63 TR=5E-08
+  XTB=1.38 EG=1.11 XTI=3 FC=0.5)

.MODEL D1N4148 D(IS=2.52E-09 RS=0.568 N=1.752 BV=100
+  IBV=100E-06 CJO=4E-12 VJ=0.7 M=0.45 TT=6E-09)

Vcc vcc 0 DC 14.5

Vin in_sig 0 DC 0 AC 1
R1 in_sig node_A 22K
Cin node_A base1 0.022U
R2 vcc base1 2MEG
R3 base1 0 470K
C20 base1 0 220P
D1 0 base1 D1N4148

Q1 coll1 base1 emit1 Q2N5089
Rc1 vcc coll1 150K
Cc3 coll1 base1 100P
Re1 emit1 0 33K
Ce1 emit1 fb_junct 4.7U

* LDR path: variable resistance to ground
* In real circuit: 50K vibrato pot (variable) + 18K + LDR (variable)
* We sweep the total path resistance
Rldr_path fb_junct 0 120K

R10 out fb_junct 56K

Q2 coll2 coll1 emit2a Q2N5089
Rc2 vcc coll2 1.8K
Re2a emit2a emit2b 270
Ce2 emit2a emit2b 22U
Re2b emit2b 0 820
Cc4 coll2 coll1 100P

R9 coll2 out 6.8K
Rload out 0 100K

.control
* Test different LDR path resistances
* Real circuit: LDR varies ~50 ohm (bright) to >1M (dark)
* Plus 18K series + vibrato pot portion
* We'll test: 500, 1K, 2K, 5K, 10K, 19K (18K+1K LDR), 50K, 120K, 500K, 1M, 10M

echo "=== LDR Sweep: Gain at 1 kHz vs Rldr_path ==="
echo "Rldr_path(ohm) | Gain_1k(dB) | Peak_Gain(dB) | Peak_Freq(Hz) | BW_low(Hz) | BW_high(Hz)"

foreach rldr 500 1000 2000 5000 10000 19000 50000 120000 500000 1000000 10000000
    alter Rldr_path = $rldr
    op
    ac dec 100 10 100K
    meas ac g1k find vdb(out) at=1000
    meas ac gpeak max vdb(out)
    meas ac fpeak max_at vdb(out)
    let tgt = gpeak - 3
    meas ac bwl when vdb(out)=tgt rise=1
    meas ac bwh when vdb(out)=tgt fall=last
    echo "$rldr | $&g1k | $&gpeak | $&fpeak | $&bwl | $&bwh"
    destroy all
end

* Also write full AC sweep at key LDR values for plotting
echo ""
echo "=== Writing full AC data for key LDR values ==="

alter Rldr_path = 500
ac dec 200 1 1MEG
wrdata /tmp/preamp_ac_ldr500.txt vdb(out) vp(out)

alter Rldr_path = 19000
ac dec 200 1 1MEG
wrdata /tmp/preamp_ac_ldr19k.txt vdb(out) vp(out)

alter Rldr_path = 120000
ac dec 200 1 1MEG
wrdata /tmp/preamp_ac_ldr120k.txt vdb(out) vp(out)

alter Rldr_path = 10000000
ac dec 200 1 1MEG
wrdata /tmp/preamp_ac_ldr10M.txt vdb(out) vp(out)

.endc
.end
